US04288443
N-[2-[[5-(Dimethylaminomethyl)-4-methyl-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
A mixture of 5-[[2-(amino)-ethyl]thio]methyl-N,N,3-trimethyl-2-furanmethanamine (1.15 g) and N-methyl-1-(methylthio)-2-nitroethenamine (0.76 g) was heated in vacuo for 4 hours. The reaction mixture was purified by column chromatography (silica/methanol:0.88 ammonia 79:1) affording the title compound (0.45 g).

reactant | 5-[[2-(amino)-ethyl]thio]methyl-N,N,3-trimethyl-2-furanmethanamine | 1.15 g | NCCSCC1=CC(=C(O1)CN(C)C)C | C11H20N2OS
reactant | N-methyl-1-(methylthio)-2-nitroethenamine | 0.76 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
product | N-[2-[[5-(Dimethylaminomethyl)-4-methyl-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.45 g | CN(C)CC1=C(C=C(O1)CSCCNC(=C[N+](=O)[O-])NC)C | C14H24N4O3S
